US05128448
To a cold (-78° C.) solution of tricyclo[3.3.1.1-3,7]decane-2-propanoic acid (9.63 mmol, 2.006 g) in tetrahydrofuran (25 mL) was added triethylamine (11.5 mmol, 1.170 g, 1.61 mL), and the resulting mixture stirred for 10 min. Dropwise addition of pivaloyl chloride (9.63 mmol, 1.161 g, 1.19 mL) to the carboxylate provided a thick suspension, which was stirred at low temperature (-78° C.) for 15 min and then warmed to 0° C. (30 min). In a separate flask, while the mixed anhydride was forming, was introduced a solution of (S)-4-(phenylmethyl)-2-oxazolidinone (9.44 mmol, 1.673 g) in tetrahydrofuran (25 mL). This mixture was cooled to -78° C. and n-butyl lithium (1.6M in hexanes, 9.44 mmol, 5.90 mL) was added over the course of 10 min. The oxazolidinone anion was allowed to form for 30 min at low temperature (-78° C.). The mixed anhydride was recooled to -78° C. (15 min) and the anion added dropwise via cannulae. The flask containing the anion was rinsed with tetrahydrofuran (5 mL) and the washings transferred via a cannulae to the reaction mixture. The reaction mixture was stirred at low temperature (-78° C.) for 15 min, warmed to 0° C. over the course of 45 min, and quenched by the addition of saturated aqueous ammonium chloride (20 mL). The heterogeneous mixture was concentrated in vacuo and partitioned with CH2Cl2 (100 mL) and water (25 mL). The aqueous phase was extracted with CH2Cl2 (3×100 mL), and the combined organic layers dried (Na2SO4) then concentrated in vacuo. This pale yellow oil was purified by flash chromatography, eluting with hexanes/EtOAc (6:1), to provide (S)-3-[1-oxo-3-(tricyclo[3.3.1.1-3,7]dec-2-yl)propyl]-4-(phenylmethyl)-2-oxazolidinone as a colorless glass that crystallized upon standing overnight at room temperature (93%, 3.234 g). mp 82°-83° C.

reactant | (S)-4-(phenylmethyl)-2-oxazolidinone | 9.44 mmol, 1.673 g | C1(=CC=CC=C1)C[C@@H]1NC(OC1)=O | C10H11NO2
reactant | n-butyl lithium | 9.44 mmol, 1.6M, 5.90 mL | C(CCC)[Li]
reactant | oxazolidinone | O1C(NCC1)=O | C3H5NO2
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | (S)-3-[1-oxo-3-(tricyclo[3.3.1.1-3,7]dec-2-yl)propyl]-4-(phenylmethyl)-2-oxazolidinone | O=C(CCC1C2CC3CC(CC1C3)C2)N2C(OC[C@@H]2CC2=CC=CC=C2)=O | C23H29NO3
